US04080207
Preparation of 1-Acetyl-2-(4-aminophenyl)hydrazine
1-Acetyl-2-(4-nitrophenyl)hydrazine (12.7 g, 0.065 mole) and 10% palladium/charcoal (catalytic amount) was suspended in absolute ethanol (300 ml) in a Parr shaker bottle. The reaction mixture was hydrogenated at room temperature until hydrogen uptake ceased (theoretical uptake 15.6 psi-actual uptake was 17 psi).

reactant | 1-Acetyl-2-(4-nitrophenyl)hydrazine | 0.065 mole, 12.7 g | C(C)(=O)NNC1=CC=C(C=C1)[N+](=O)[O-] | C8H9N3O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 300 ml | C(C)O | C2H6O
catalyst | palladium/charcoal | [Pd] | Pd
product | 1-Acetyl-2-(4-aminophenyl)hydrazine | C(C)(=O)NNC1=CC=C(C=C1)N | C8H11N3O
